US06852726B2
2,5-Dichloro-1-(4,5-dihydro-1H-imidazol-2-ylmethyl)-3-methanesulfonyl-1H-indole
To a solution of ethylene diamine(0.065 g, 1.092 mmole) in ethanol:chloroform (30 ml, 1:1) at 0° C. under a nitrogen atmosphere was added 2-(2,5-dichloro-3-methanesulfonyl-indol-1-yl)-acetimidic acid ethyl ester hydrochloride (0.351 g, 0.91 mmole) dissolved in chloroform (5 ml). The reaction mixture was stirred at room temperature for 2 h and then evaporated to dryness. The residue was purified by column chromatography (silica gel) eluting the product with 7:93 methanol:methylene chloride with 0.1% ammonium hydroxide added. The resulting product, pure 2,5-dichloro-1-(4,5-dihydro-1H-imidazol-2-ylmethyl)-3-methanesulfonyl-1H-indole weighed 0.314 g (99.7% yield).

reactant | ethylene diamine | 1.092 mmole, 0.065 g | C(CN)N | C2H8N2
reactant | 2-(2,5-dichloro-3-methanesulfonyl-indol-1-yl)-acetimidic acid ethyl ester hydrochloride | 0.91 mmole, 0.351 g | Cl.C(C)OC(CN1C(=C(C2=CC(=CC=C12)Cl)S(=O)(=O)C)Cl)=N
solvent | ethanol | C(C)O | C2H6O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,5-Dichloro-1-(4,5-dihydro-1H-imidazol-2-ylmethyl)-3-methanesulfonyl-1H-indole | 99.7% yield | ClC=1N(C2=CC=C(C=C2C1S(=O)(=O)C)Cl)CC=1NCCN1 | C13H13Cl2N3O2S
